Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[C:7]=[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])([H:5])[O:6],3.1941402317
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]#[C:10][H:11].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]#[C:10][H:11],-4.08909972592
[C:4]([H:5])#[C:6].[H:1][C:2]#[C:3][C:7]([H:8])[H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9],-5.313256099019999
[C:6]([H:7])[H:8].[H:1][C:2]#[C:3][O:4][C:5]=[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][O:4][C:5]([C:6]([H:7])[H:8])=[C:9]([H:10])[H:11],-6.5141104295500005
[H:6].[O:1]=[C:2]([H:3])[O:4][C:5]#[C:7][C:8]([H:9])[H:10]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10],-4.444544002930001
[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-7.40209166
[H:5].[O:1]=[C:2]=[C:3]([H:4])[O:6][C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-2.52484841695
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[H:1][C:2][O:3][C:4][C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[H:5],4.79494377479
[C:1]#[C:2][C:3]([H:4])[C:5]#[C:7][H:8].[H:6]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])=[C:7][H:8],-2.08931085449
[H:14].[H:1][C:2][O:3][C:4]([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2][O:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.031244495969999
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:12]([H:13])([H:14])[H:15],4.81999077136
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([O:7][H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:7][H:8],2.7574406207
[C:1][C:2]#[C:4][C:5]([H:7])([H:8])[H:9].[C:3]#[C:6]>>[C:1]#[C:2][C:3]([C:4]#[C:5])[C:6]([H:7])([H:8])[H:9],-4.96927446573
[C:1][C:2]([H:3])([H:4])[O:5][C:6](=[O:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]=[C:2]([H:3])[H:4].[O:5][C:6](=[O:7])[C:8]([H:9])([H:10])[H:11],0.95917666203
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]=[C:9]([H:10])[H:11],4.96885750261
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[H:1][C:2][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14].[H:3],4.020202340919998
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]=[C:10]([H:11])[H:12]>>[C:7]([H:8])#[C:9][C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6],3.35231100124
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[H:8]>>[C:3]([H:4])[O:5][C:6]([H:7])[H:8].[O:1]=[C:2],2.18166596909
[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][O:7][H:8]>>[C:5]#[C:6][O:7][H:8].[H:1][C:2]#[C:3][H:4],2.77127503587
[C:6]([H:7])[O:8][H:9].[H:1][O:2][C:3][C:4]#[C:5]>>[H:1][O:2][C:3]#[C:4]/[C:5]=[C:6](\[H:7])[O:8][H:9],-5.0533860484
[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.43957217
[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:1]#[C:2][C:3][C:10]([H:11])[H:12].[C:4]([H:5])([H:6])=[C:7]([H:8])[H:9],-0.821879622771
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10][H:11]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-4.664159940909999
[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]#[C:11][H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-1.9663107960900004
[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.98443039847
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.61155837714
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([C:7]([H:8])[O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])[O:9][H:10].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:11]([H:12])([H:13])[H:14],0.888216970001
[C:4]([H:5])#[C:6][O:7][C:8]([H:9])[H:10].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])[H:10],-3.93515242518
[C:7]([H:8])[H:9].[O:1][O:2][C:3]([H:4])[C:5]#[C:6]>>[O:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])[H:9],-7.48783600903
[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:6][H:7].[H:8],5.171784672559999
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[O:11][H:12]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[O:11][H:12],2.86742821866
